US06596711B1
A suspension of compound (2S)-(3-amino-2-fluoropropyl)phosphinic acid (1.2 g, 8.5 mmol) in HMDS (8.96 mL, 42.4 mmol) was heated to reflux for 15 h. The reaction was cooled to room temperature, treated with diglyme (9.6 mL) and heated to reflux for 7 h. After the mixture was cooled to room temperature, Hünig's base (1.47 mL, 8.4 mmol) was added followed by dropwise addition of methyl iodide (1.58 mL, 25.4 mmol). The reaction was stirred overnight then it was diluted with methylene chloride and extracted with 2 N HCl solution. The aqueous layer was washed with methylene chloride and diethyl ether and then evaporated under reduced pressure. The crude product was passed through a Dowex 50WX8-200 mesh H+ form column eluting with 1:1 methanol/water until no further material was detected by TLC analysis. The product was then eluted with 1:3 concentrated ammonium hydroxide solution/methanol. Further purification by column chromatography on silica gel eluting with methylene chloride, methanol, concentrated ammonium hydroxide solution (6:3:1) afforded (2S)-(3-amino-2-fluoropropyl)(methyl)phosphinic acid as a white solid (504 mg, 38%). 1H NMR (300 MHz, D2O) δ5.20 (m, 0.5H), 5.03 (m, 0.5H), 3.20-3.42 (m, 2H), 1.80-2.22 (m, 2H), 1.30 (d, J=14.0 Hz, 3H).

reactant | (2S)-(3-amino-2-fluoropropyl)phosphinic acid | 8.5 mmol, 1.2 g | NC[C@@H](CP(O)=O)F | C3H9FNO2P
reactant | HMDS | 42.4 mmol, 8.96 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | Hünig's base | 8.4 mmol, 1.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl iodide | 25.4 mmol, 1.58 mL | CI | CH3I
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diglyme | 9.6 mL | COCCOCCOC | C6H14O3
product | (2S)-(3-amino-2-fluoropropyl)(methyl)phosphinic acid | 504 mg, 38% | NC[C@@H](CP(O)(=O)C)F | C4H11FNO2P
